US06759410B1
b) 2-Benzylamino-6-(phenyl)benzylamine
The product of example 7a above, 2-benzylamino-6-phenylbenzonitrile, was dissolved in dry tetrahydrofuran (10 mL) and stirred under argon at room temperature. Lithium aluminum hydride (0.175 g, 4.3 mmol) was added and the mixture heated to reflux under argon for 20 hours. The reaction mixture was cooled to room temperature and anhydrous sodium sulfate was added followed by the addition of a freshly prepared saturated solution of anhydrous sodium sulfate. The solvent was evaporated and the residue triturated with ethyl acetate, filtered and evaporated to give the title compound. ES (+) MS m/e=272(M-NH2+)

reactant | 2-benzylamino-6-phenylbenzonitrile | C(C1=CC=CC=C1)NC1=C(C#N)C(=CC=C1)C1=CC=CC=C1 | C20H16N2
reactant | Lithium aluminum hydride | 4.3 mmol, 0.175 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-Benzylamino-6-(phenyl)benzylamine | C(C1=CC=CC=C1)NC1=C(CN)C(=CC=C1)C1=CC=CC=C1 | C20H20N2
